US09359339B2
Step B. N-[4-((1S)-1-{(4-Chlorophenyl)[5-fluoro-7-(1-methyl-1H-pyrazol-5-yl)-1-benzothien-3-yl]methyl}pentyl)benzoyl]-β-alanine
Dioxane (1.4 mL) and LiOH (2.0 M in water, 0.68 mL, 1.36 mmol) were added to a mixture of ethyl N-(4-{(1S)-1-[(7-bromo-5-fluoro-1-benzothien-3-yl)(4-chlorophenyl)methyl]pentyl}benzoyl)-β-alaninate (23.0 mg, 0.036 mmol), 1-methyl-1H-pyrazole-5-boronic acid pinacol ester (11.0 mg, 0.053 mmol), and PdCl2(dppf) (0.029 g, 0.036 mmol) in a sealed microwave vial under a nitrogen atmosphere. The mixture was degassed then irradiated in a microwave reactor at 80° C. for 15 minutes. The mixture was acidified with acetic acid then extracted with ethyl acetate. The organic layer was dried over Na2SO4, filtered, then concentrated. The resulting residue was purified by preparative reverse-phase HPLC eluting with acetonitrile/water+0.1% TFA. The resulting material was further purified by silica gel chromatography eluting with 5% MeOH/DCM+0.5% acetic acid to afford the title compound. 1H NMR (500 MHz, CDCl3): δ 7.57 (br, 3H); 7.29-7.37 (m, 6H); 7.23 (d, J=6 Hz, 2H); 6.94 (d, J=7 Hz, 1H); 6.86 (br, 1H); 6.40 (br, 1H); 4.47 (d, J=11 Hz, 1H); 3.71 (br, 3H); 3.62 (br, 2H); 3.43 (t, J=9.5 Hz, 1H); 2.59 (br, 2H); 1.45-1.52 (m, 2H); 1.13-1.16 (m, 1H); 1.04-1.06 (m, 1H); 0.88-1.00 (m, 2H); 0.68 (t, J=6.5 Hz, 3H). LC1: 3.99 min. (M+H)+ 618.

reactant | LiOH | 1.36 mmol, 2.0 M, 0.68 mL | [Li+].[OH-]
reactant | ethyl N-(4-{(1S)-1-[(7-bromo-5-fluoro-1-benzothien-3-yl)(4-chlorophenyl)methyl]pentyl}benzoyl)-β-alaninate | 0.036 mmol, 23.0 mg | BrC1=CC(=CC=2C(=CSC21)C([C@H](CCCC)C2=CC=C(C(=O)NCCC(=O)OCC)C=C2)C2=CC=C(C=C2)Cl)F | C32H32BrClFNO3S
reactant | 1-methyl-1H-pyrazole-5-boronic acid pinacol ester | 0.053 mmol, 11.0 mg | CN1N=CC=C1B1OC(C)(C)C(C)(C)O1 | C10H17BN2O2
catalyst | PdCl2(dppf) | 0.036 mmol, 0.029 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | Dioxane | 1.4 mL | O1CCOCC1 | C4H8O2
product | N-[4-((1S)-1-{(4-Chlorophenyl)[5-fluoro-7-(1-methyl-1H-pyrazol-5-yl)-1-benzothien-3-yl]methyl}pentyl)benzoyl]-β-alanine | ClC1=CC=C(C=C1)C([C@H](CCCC)C1=CC=C(C(=O)NCCC(=O)O)C=C1)C1=CSC2=C1C=C(C=C2C2=CC=NN2C)F | C34H33ClFN3O3S
